US08227458B2
cis/trans-4-(Pyridazin-3-yloxy)-cyclohexanecarboxylic acid ethyl ester (1:1)
To an argon purged solution of cis/trans-4-(6-chloro-pyridazin-3-yloxy)-cyclohexanecarboxylic acid ethyl ester (1:1) (1.30 g, 4.57 mmol) and triethylamine (0.64 ml, 4.57 mmol) in ethyl acetate (46 ml) was added palladium on charcoal 10% (0.097 g). The reaction mixture was purged with hydrogen gas and stirred under an atmosphere of hydrogen gas for 4 h at room temperature. The catalyst and the ammonium salts were removed by filtration over Decalite. The filtrate was concentrated in vacuo to give the title compound (1.09 g, 95%) as light yellow oil.

reactant | trans-4-(6-chloro-pyridazin-3-yloxy)-cyclohexanecarboxylic acid ethyl ester | 4.57 mmol, 1.30 g | C(C)OC(=O)[C@@H]1CC[C@H](CC1)OC=1N=NC(=CC1)Cl | C13H17ClN2O3
reactant | triethylamine | 4.57 mmol, 0.64 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 46 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 0.097 g | [Pd] | Pd
product | trans-4-(Pyridazin-3-yloxy)-cyclohexanecarboxylic acid ethyl ester | 1.09 g, 95% | C(C)OC(=O)[C@@H]1CC[C@H](CC1)OC=1N=NC=CC1 | C13H18N2O3
